US05175166
1-Methyl-5-(1,3-dioxolan-2-yl)pyrimidinium iodide
5-(1,3-dioxolan-2-yl)pyrimidine (0.573 g, 3.77 mmol) and acetonitrile (3 ml) were stirred under dry nitrogen in a bomb tube with rubber seal. Methyl iodide (0.7 ml, 11.30 mmol) was added, the bomb properly sealed and stirring continued at room temperature overnight. This resulted in a yellow suspension which was vacuum-filtered to obtain yellow powdery crystals. The powder was put in drying pistol to give 0.881 g (84%) yellow crystals Recrystallization from ethanol gave fine crystals mp 188°-190° C. 300 MHz nmr in dimethyl sulfoxide (DMSO) indicated product. Microanalysis calc: C 32.67, H 3.77, N 9.53; found: C 32.66, H 3.81, N 9.42.

reactant | 5-(1,3-dioxolan-2-yl)pyrimidine | 3.77 mmol, 0.573 g | O1C(OCC1)C=1C=NC=NC1 | C7H8N2O2
reactant | Methyl iodide | 11.30 mmol, 0.7 ml | CI | CH3I
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-Methyl-5-(1,3-dioxolan-2-yl)pyrimidinium iodide | [I-].C[N+]1=CN=CC(=C1)C1OCCO1 | InChI=1S/C8H11N2O2.HI/c1-10-5-7(4-9-6-10)8-11-2-3-12-8;/h4-6,8H,2-3H2,1H3;1H/q+1;/p-1
